US07342115B2
A mixture of 6-chloro-4-methoxy-nicotinic acid methyl ester (4.0 g, 19.8 mmol), 2,6-diethylphenyl boronic acid (7.0 g, 39.3 mmol), Na2CO3 (2M in H2O, 39 mL) and Pd(PPh3)4 (2.0 g, 1.7 mmol) in toluene (200 mL) is heated overnight at 80° C. under argon. On cooling, hexane (200 mL) is added and the organic layer separated. The organic layer is washed with 1N NaOH and water, dried (Na2SO4) and concentrated. The residue is purified by silica gel column (hexane/EtOAc 4:1) to give 6-(2,6-diethyl-phenyl)-4-methoxy-nicotinic acid methyl ester. 1H NMR (CDCl3) 8.99 (s, 1H), 7.30 (m, 1H), 7.15 (d, 2H), 6.89 (s, 1H), 3.95 (s, 3H), 3.94 (s, 3H), 2.34 (m, 4H), 1.06 (t, 6H).

reactant | 6-chloro-4-methoxy-nicotinic acid methyl ester | 19.8 mmol, 4.0 g | COC(C1=CN=C(C=C1OC)Cl)=O | C8H8ClNO3
reactant | 2,6-diethylphenyl boronic acid | 39.3 mmol, 7.0 g | C(C)C1=C(C(=CC=C1)CC)B(O)O | C10H15BO2
reactant | Na2CO3 | 2M, 39 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | hexane | 200 mL | CCCCCC | C6H14
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 1.7 mmol, 2.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(2,6-diethyl-phenyl)-4-methoxy-nicotinic acid methyl ester | COC(C1=CN=C(C=C1OC)C1=C(C=CC=C1CC)CC)=O | C18H21NO3
